US08314253B2
10.1 Tricyclo[6.3.2.02,7]trideca-4,12-diene-3,6-dione
To a solution of 17.2 g of 1,4-benzoquinone in 240 mL DCM were added 7.6 mL of BF3-diethyletherate followed by 17.2 mL of 1,3-cycloheptadiene at −20° C. The cooling bath was removed after 20 min and the mixture furthermore stirred for 30 min at rt. The reaction mixture was then poured into ice cold KOH (30% aq.) solution and it was vigorously stirred for 10 min. After filtration over celite the organic phase was dried over K2CO3 and concentrated in vacuo to obtain 21.7 g of the desired compound as mixture of stereoisomers as brown solid.

reactant | 1,4-benzoquinone | 17.2 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | 1,3-cycloheptadiene | 17.2 mL | C1=CC=CCCC1 | C7H10
solvent | DCM | 240 mL | C(Cl)Cl | CH2Cl2
product | Tricyclo[6.3.2.02,7]trideca-4,12-diene-3,6-dione | 21.7 g | C12C3C(C=CC(C3C(CCC1)C=C2)=O)=O | C13H14O2
